US05334371
(a) 2,2',6,6'-Tetra(hydroxymethyl)-4,4'-bipyridine
50 g (128.77 mmol) of 2,2', 6,6'-tetra(methoxycarbonyl)-4,4'-bipyridine is dissolved in a mixture of 400 ml of dioxane/400 ml of water and, in portions, 48.71 g (1.28 mol) of sodium borohydride is added thereto. The mixture is stirred overnight at room temperature. The solution is acidified with 5N hydrochloric acid and evaporated to dryness. The residue is suspended in 1 liter of 1N sodium hydroxide solution and extracted three times with 250 ml of chloroform. The organic phases are dried over magnesium sulfate and evaporated under vacuum. The residue is recrystallized from ethanol/ether.

reactant | 2,2', 6,6'-tetra(methoxycarbonyl)-4,4'-bipyridine | 128.77 mmol, 50 g | COC(=O)C1=NC(=CC(=C1)C1=CC(=NC(=C1)C(=O)OC)C(=O)OC)C(=O)OC | C18H16N2O8
reactant | sodium borohydride | 1.28 mol, 48.71 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2,2',6,6'-Tetra(hydroxymethyl)-4,4'-bipyridine | OCC1=NC(=CC(=C1)C1=CC(=NC(=C1)CO)CO)CO | C14H16N2O4
